US05106857
A. 2-chloro-1-ethylbenzimidazole
1-Ethyl-2-benzimidazolinone (100 g, 0.62 mol) was dissolved in phosphorus oxychloride (475 mL) with stirring and heated to reflux temperature. Hydrogen chloride gas was passed into the refluxing solution for 4 h. Excess phosphorous oxychloride was removed on a rotary evaporator at 70° C. The residue was poured into a stirred mixture of aqueous potassium carbonate solution and methylene chloride. The mixture was basified with 50% sodium hydroxide solution and the methylene chloride layer was separated, dried (Na2SO4), concentrated, and distilled to obtain 86 g (77%) of oil, bp 110°-115° C./2-0.3 mmHg, which crystallized on standing; mp 50°-52° C.

reactant | 1-Ethyl-2-benzimidazolinone | 0.62 mol, 100 g | C(C)N1C(NC2=C1C=CC=C2)=O | C9H10N2O
reactant | Hydrogen chloride | Cl | ClH
solvent | phosphorus oxychloride | 475 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-1-ethylbenzimidazole | 86 g, 77% | ClC1=NC2=C(N1CC)C=CC=C2 | C9H9ClN2
